US08013186B2
To a solution of 2,2-difluoro-2-(4-fluorophenoxy)acetic acid ethyl ester (2.9 g, 12 mmol) in a mixture of MeOH (20 ml) and THF (10 ml) was added a solution of NaOH (1.48 g, 37 mmol) in water (10 ml). The reaction mixture was stirred 20 h at rt and 1 h at 40° C. The reaction mixture was concentrated and the remaining aqueous solution was diluted with water (10 ml) and washed with hexanes. The solution was acidified to pH 3 by adding 1N HCl and the heterogeneous mixture was extracted with ethyl acetate. The combined extracts were washed with brine and after drying over sodium sulfate, the solvent was removed to obtain 2,2-difluoro-2-(4-fluorophenoxy)acetic acid as

reactant | 2,2-difluoro-2-(4-fluorophenoxy)acetic acid ethyl ester | 12 mmol, 2.9 g | C(C)OC(C(OC1=CC=C(C=C1)F)(F)F)=O | C10H9F3O3
reactant | NaOH | 37 mmol, 1.48 g | [OH-].[Na+]
solvent | MeOH | 20 ml | CO | CH4O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | water | 10 ml | O | H2O
product | 2,2-difluoro-2-(4-fluorophenoxy)acetic acid | FC(C(=O)O)(OC1=CC=C(C=C1)F)F | C8H5F3O3
